US03944531
thio-p-cresol is reacted with 1-bromo-3,7-dimethyl-octa- 2,6-diene to produce 3,7-dimethyl-octa-2,6-dienyl p-tolyl sulphide (boiling point = 116°-118°C/0.1 mmHg);

reactant | thio-p-cresol | C1=CC(=CC=C1S)C | C7H8S
reactant | 1-bromo-3,7-dimethyl-octa- 2,6-diene | BrCC=C(CCC=C(C)C)C | C10H17Br
product | 3,7-dimethyl-octa-2,6-dienyl p-tolyl sulphide | C1(=CC=C(C=C1)SCC=C(CCC=C(C)C)C)C | C17H24S
